US08071584B2
(racemic)-5-Bromo-3-(2,2-dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxylic acid
1-(1,1-dimethylethyl) 7-ethyl 5-bromo-3-(2,2-dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-1,7-dicarboxylate (685 mg, 1.296 mmol) was placed in a flask and dissolved in methanol (6 mL) and water (3 mL). An aqueous solution of sodium hydroxide 6N in water (3.24 mL, 19.44 mmol) was added. The mixture was heated in a microwave for 30 mins at 80° C. The mixture was acidified with aqueous HCl 1N until pH=1, and the resulting mixture was extracted with ethyl acetate. The organic layer was dried (MgSO4) and the solvent removed under vacuum to afford 490 mg of the title compound as a yellow powder.

reactant | 1-(1,1-dimethylethyl) 7-ethyl 5-bromo-3-(2,2-dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-1,7-dicarboxylate | 1.296 mmol, 685 mg | BrC=1C=C2C(=CN(C2=C(C1)C(=O)OCC)C(=O)OC(C)(C)C)C1CC(S(CC1)(=O)=O)(C)C | C23H30BrNO6S
reactant | sodium hydroxide | 6N | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | methanol | 6 mL | CO | CH4O
solvent | water | 3 mL | O | H2O
solvent | water | 19.44 mmol, 3.24 mL | O | H2O
product | (racemic)-5-Bromo-3-(2,2-dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxylic acid | 490 mg | BrC=1C=C2C(=CNC2=C(C1)C(=O)O)C1CC(S(CC1)(=O)=O)(C)C | C16H18BrNO4S
